US08580781B2
Preparation of 2-{3-[5-((E)-3-aminopropenyl)pyrimidin-2-yl]benzyl}-6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one (“A284”)
48.3 28 mg (0.051 mmol) of tert-butyl [(Z)-3-(2-{3-[6-oxo-3-(3,4,5-trifluorophenyl)-6H-pyridazin-1-ylmethyl]phenyl}pyrimidin-5-yl)allyl]carbamate are dissolved in 4 ml of dichloromethane, and 79 μl (1.02 mmol) of trifluoroacetic acid are added. The reaction mixture is stirred at room temperature for 15 h and evaporated. The residue is purified by means of preparative HPLC; yield: 11 mg of “A284” trifluoroacetate; HPLC: Rt=2.64 min (method C); LC-MS: 450 (M+H).

reactant | tert-butyl [(Z)-3-(2-{3-[6-oxo-3-(3,4,5-trifluorophenyl)-6H-pyridazin-1-ylmethyl]phenyl}pyrimidin-5-yl)allyl]carbamate | O=C1C=CC(=NN1CC=1C=C(C=CC1)C1=NC=C(C=N1)\C=C/CNC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)F)F)F | C29H26F3N5O3
reactant | trifluoroacetic acid | 1.02 mmol, 79 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-{3-[5-((E)-3-aminopropenyl)pyrimidin-2-yl]benzyl}-6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one | NC/C=C/C=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C2=CC(=C(C(=C2)F)F)F)C=CC1 | C24H18F3N5O
